US09034866B2
Synthesis of (±)-9-[4-(3-Cyano-azetidin-1-yl)-3-hydroxy-3-methyl-4-oxo-but-1-ynyl]-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
Into a 10-mL sealed tube, was placed a solution of methyl 4-[4-carbamoyl-12-fluoro-9-oxa-3,6-diazatricyclo[8.4.0.0[2,6]]tetradeca-1(10),2,4,11,13-pentaen-13-yl]-2-hydroxy-2-methylbut-3-ynoate (150 mg, 0.40 mmol, 1.00 equiv), azetidine-3-carbonitrile hydrochloride (237 mg, 2.00 mmol, 5.00 equiv), triethylamine (203 mg, 2.01 mmol, 5.00 equiv) in methanol (5 mL). The resulting solution was stirred for 12 h at 40° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (30:1). This resulted in 8.8 mg (5%) of 9-[4-(3-Cyano-azetidin-1-yl)-3-hydroxy-3-methyl-4-oxo-but-1-ynyl]-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide as a off-white solid. LC-MS: (ES, m/z): 424 [M+H]+1H-NMR: (300 MHz, DMSO-d6, ppm): δ 8.594 (d, 1H), 7.785 (s, 1H), 7.562 (d, 1H), 7.145 (s, 1H), 7.062 (d, 1H), 6.438 (d, 1H), 4.748 (t, 1H), 4.600-4.410 (m, 5H), 4.300-4.190 (m, 1H), 4.180-4.000 (m, 1H), 3.900-3.710 (m, 1H), 1.610 (s, 3H).

reactant | methyl 4-[4-carbamoyl-12-fluoro-9-oxa-3,6-diazatricyclo[8.4.0.0[2,6]]tetradeca-1(10),2,4,11,13-pentaen-13-yl]-2-hydroxy-2-methylbut-3-ynoate | 0.40 mmol, 150 mg, 1.00 equiv | C(N)(=O)C=1N=C2C=3C=C(C(=CC3OCCN2C1)F)C#CC(C(=O)OC)(C)O | C18H16FN3O5
reactant | azetidine-3-carbonitrile hydrochloride | 2.00 mmol, 237 mg, 5.00 equiv | Cl.N1CC(C1)C#N
reactant | triethylamine | 2.01 mmol, 203 mg, 5.00 equiv | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 mL | CO | CH4O
product | (±)-9-[4-(3-Cyano-azetidin-1-yl)-3-hydroxy-3-methyl-4-oxo-but-1-ynyl]-8-fluoro-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | C(#N)C1CN(C1)C(C(C#CC=1C(=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)F)(C)O)=O | C21H18FN5O4
